US08236808B2
Step 2: 4-Benzyl-1-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-1-methyl-piperidinium iodide
A solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [2-(4-benzyl-piperidin-1-yl)-ethyl]-amide (39 mg, 0.10 mmol) and methyl iodide (0.031 mL, 0.50 mmol) in acetone (2 mL) is heated at reflux for 3 h. After cooling to RT the solvent is removed in vacuo to afford the title compound as yellow solid. M+ 403. 1H NMR (400 MHz, DMSO-d6) δ 8.30 (1H, t), 7.62 (2H, br), 7.39-7.36 (2H, m), 7.29-7.23 (3H, m), 7.16 (2H, br), 3.73-3.47 (6H, m), 3.35-3.28 (2H, m), 3.14 (3H, s), 2.67 (2H, d), 1.92-1.81 (1H, m), 1.74-1.68 (4H, m).

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [2-(4-benzyl-piperidin-1-yl)-ethyl]-amide | 0.10 mmol, 39 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCNC(=O)C1=NC(=C(N=C1N)N)Cl | C19H25ClN6O
reactant | methyl iodide | 0.50 mmol, 0.031 mL | CI | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 4-Benzyl-1-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-1-methyl-piperidinium iodide | [I-].C(C1=CC=CC=C1)C1CC[N+](CC1)(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl | InChI=1S/C20H27ClN6O.HI/c1-27(10-7-15(8-11-27)13-14-5-3-2-4-6-14)12-9-24-20(28)16-18(22)26-19(23)17(21)25-16;/h2-6,15H,7-13H2,1H3,(H4-,22,23,24,26,28);1H
